US04769079
An acidic solution was made by diluting 25 liters of a 28 weight percent (wt. %) AlCl3 solution to 60 liters total volume with water. In addition, a TiCl4 solution was made by adding 400 ml of TiCl4 to 2000 ml of water to obtain a clear solution. The TiCl4 solution was added to the previously prepared AlCl3 solution to form an AlCl3 -TiCl4 solution. A base solution was made by dissolving 9000 g of NaOH in 60 liters of water. Then the following precipitation reaction was carried out:

reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | TiCl4 | Cl[Ti](Cl)(Cl)Cl
reactant | TiCl4 | 400 ml | Cl[Ti](Cl)(Cl)Cl
solvent | water | O | H2O
solvent | water | 2000 ml | O | H2O
product | AlCl3 TiCl4 | [Al+3].[Cl-].[Cl-].[Cl-].Cl[Ti](Cl)(Cl)Cl | InChI=1S/Al.7ClH.Ti/h;7*1H;/q+3;;;;;;;;+4/p-7
